US04794155
(f) 1,3-Bis-(4-phenoxybenzoyl)benzene
Diphenyl oxide (51 g), 100 ml of dichloromethane and 13.3 g of aluminum trichloride are placed in a flask equipped with a mechanical stirrer, a reflux condenser and an addition funnel. After cooling the flask to -60° C., 10.15 g of isophthaloyl chloride is added over a 30-minute period. The reaction is stirred at 25° C. for 72 hours and refluxed for 4 hours. The reaction mixture is poured into 100 ml of 1M hydrochloric acid and the organic layer is washed once with ammonium hydroxide and twice with water. The organic layer is dried with sodium bisulfate and the solvent is evaporated. The product is recrystallized from methylethyl ketone, yielding 14.3 g (61 percent yield) of the title compound.

reactant | Diphenyl oxide | 51 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | aluminum trichloride | 13.3 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | isophthaloyl chloride | 10.15 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,3-Bis-(4-phenoxybenzoyl)benzene | 14.3 g, 61 percent yield | O(C1=CC=CC=C1)C1=CC=C(C(=O)C2=CC(=CC=C2)C(C2=CC=C(C=C2)OC2=CC=CC=C2)=O)C=C1 | C32H22O4
